US08877782B2
f) 6-[3-(2-Fluoro-4-methyl-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-isopropyl-nicotinamide
As described for example 84f, 6-[3-(2-fluoro-4-methyl-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (200 mg, 0.56 mmol) was converted, instead of [6-[3-(2-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester, using isopropylamine instead of 2,2,2-trifluoroethylamine, to the title compound (90 mg, 42%) which was obtained as a white solid. MS: m/e=384.3 [M+H]+.

reactant | 6-[3-(2-fluoro-4-methyl-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.56 mmol, 200 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=C(C=C(C=C1)C)F)=O | C19H17FN2O4
reactant | 6-[3-(2-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=C(C=CC=C1)F)=O | C18H15FN2O4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 6-[3-(2-Fluoro-4-methyl-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-isopropyl-nicotinamide | 90 mg, 42% | FC1=C(C=CC(=C1)C)C1=NOC(=C1COC1=NC=C(C(=O)NC(C)C)C=C1)C | C21H22FN3O3
